US08912188B2
To a solution of methyl 3-(cyclopropyl(methyl)amino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (126.0 mg, 0.46 mmol) in dichloromethane (34 mL) was added pyridine (145.0 mg, 1.84 mmol) and then Tf2O (259 mg, 0.92 mmol) was added dropwise with stirring at 0° C. The resulting solution was stirred for 3 h at room temperature and then quenched by the addition of ice-water (50 mL), extracted with dichloromethane (2×20 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to afford methyl 3-(cyclopropyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as red oil (180 mg, crude).

reactant | methyl 3-(cyclopropyl(methyl)amino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 0.46 mmol, 126.0 mg | C1(CC1)N(C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O)C | C14H15N3O3
reactant | pyridine | 1.84 mmol, 145.0 mg | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 0.92 mmol, 259 mg | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 34 mL | ClCCl | CH2Cl2
product | methyl 3-(cyclopropyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | C1(CC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F)C | C15H14F3N3O5S
